US06790865B2
To a solution of ethyl 2-[4-(2-bromoacetyl)-3-chloro-phenoxy]-2-methylpropionate (209 mg) in trifluoroacetic acid (445 μl ) was added triethylsilane (300 μl), and the mixture was stirred for 1 hour at 60° C. After the reaction mixture was concentrated under reduced pressure, purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=30/1) gave ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]-2-methylpropionate (171 mg).

reactant | ethyl 2-[4-(2-bromoacetyl)-3-chloro-phenoxy]-2-methylpropionate | 209 mg | BrCC(=O)C1=C(C=C(OC(C(=O)OCC)(C)C)C=C1)Cl | C14H16BrClO4
reactant | triethylsilane | 300 μl | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 445 μl | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]-2-methylpropionate | 171 mg | BrCCC1=C(C=C(OC(C(=O)OCC)(C)C)C=C1)Cl | C14H18BrClO3
